US08304557B2
tert-butyl {3-[(6-nitropyridin-3-yl)oxy]phenyl}carbamate
In the same manner as in Reference Example 33 and using tert-butyl (3-hydroxyphenyl)carbamate (18.9 g, 90.3 mmol), 5-bromo-2-nitropyridine (15.3 g, 75.3 mmol), cesium carbonate (36.9 g, 113 mmol) and N,N-dimethylformamide (150 mL) as starting materials, the title compound (16.5 g, 66%) was obtained as a yellow oil.

reactant | tert-butyl (3-hydroxyphenyl)carbamate | 90.3 mmol, 18.9 g | OC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C11H15NO3
reactant | 5-bromo-2-nitropyridine | 75.3 mmol, 15.3 g | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
reactant | cesium carbonate | 113 mmol, 36.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | tert-butyl {3-[(6-nitropyridin-3-yl)oxy]phenyl}carbamate | 16.5 g, 66% | [N+](=O)([O-])C1=CC=C(C=N1)OC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C16H17N3O5
